US04456758
The 2-(pyrid-3-yl)-tetrahydrothiopyran-2-carboxylic acid thus obtained (16.4 g) is added in small portions, in the course of 30 minutes, to thionyl chloride (25 cc) to which dimethylformamide (0.05 cc) has been added. The reaction mixture is then stirred at the boil for 2 hours 30 minutes, cooled to a temperature of about 20° C. and then concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 70° C. This gives crude 2-chloroformyl-2-(pyrid-3-yl)-tetrahydrothiopyran hydrochloride (26 g) in the form of an orange oil, which is used immediately without further purification.

reactant | 2-(pyrid-3-yl)-tetrahydrothiopyran-2-carboxylic acid | N1=CC(=CC=C1)C1(SCCCC1)C(=O)O | C11H13NO2S
reactant | thionyl chloride | 25 cc | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.05 cc | CN(C=O)C | C3H7NO
product | 2-chloroformyl-2-(pyrid-3-yl)-tetrahydrothiopyran hydrochloride | 26 g | Cl.ClC(=O)C1(SCCCC1)C=1C=NC=CC1 | InChI=1S/C11H12ClNOS.ClH/c12-10(14)11(5-1-2-7-15-11)9-4-3-6-13-8-9;/h3-4,6,8H,1-2,5,7H2;1H
